US04217306
To a solution of 10 parts of α-(4-biphenylyl)-α,α-bis[2-(diisopropylamino)ethyl]acetamide in 350 parts by volume of ether is added dropwise with stirring 2 molar equivalents of hydrochloric acid in isopropyl alcohol. The mixture is stirred for about 2 hours when the resulting salt is separated by filtration to afford α-(4-biphenylyl)-α,α-bis[2-(diisopropylamino)ethyl]acetamide dihydrochloride, as a solid.

reactant | α-(4-biphenylyl)-α,α-bis[2-(diisopropylamino)ethyl]acetamide | C1(=CC=C(C=C1)C(C(=O)N)(CCN(C(C)C)C(C)C)CCN(C(C)C)C(C)C)C1=CC=CC=C1 | C30H47N3O
reactant | ether | CCOCC | C4H10O
reactant | hydrochloric acid | Cl | ClH
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | α-(4-biphenylyl)-α,α-bis[2-(diisopropylamino)ethyl]acetamide dihydrochloride | Cl.Cl.C1(=CC=C(C=C1)C(C(=O)N)(CCN(C(C)C)C(C)C)CCN(C(C)C)C(C)C)C1=CC=CC=C1 | InChI=1S/C30H47N3O.2ClH/c1-22(2)32(23(3)4)20-18-30(29(31)34,19-21-33(24(5)6)25(7)8)28-16-14-27(15-17-28)26-12-10-9-11-13-26;;/h9-17,22-25H,18-21H2,1-8H3,(H2,31,34);2*1H
